US08865726B2
To (S)-4-(2-chlorophenyl)oxazolidin-2-one (265 mg, 1.34 mmol) in DMF (10 mL) was added sodium hydride (59.0 mg, 1.48 mmol) and the reaction was stirred at ambient temperature for 1 hour. 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine (343 mg, 1.48 mmol) was added in one portion and the reaction was stirred at ambient temperature for 18 hours. Ice was added followed by ammonium chloride (aqueous) and the resulting suspension was filtered and washed with water. After drying, (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-chlorophenyl)oxazolidin-2-one (180 mg, 34.1% yield) was isolated as a pale yellow solid.

reactant | (S)-4-(2-chlorophenyl)oxazolidin-2-one | 1.34 mmol, 265 mg | ClC1=C(C=CC=C1)[C@@H]1NC(OC1)=O | C9H8ClNO2
reactant | sodium hydride | 1.48 mmol, 59.0 mg | [H-].[Na+]
reactant | 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine | 1.48 mmol, 343 mg | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-chlorophenyl)oxazolidin-2-one | 180 mg, 34.1% yield | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=C(C=CC=C2)Cl)=O | C15H10BrClN4O2
